US06455529B1
0.7 g of N-[4-(N-benzoylamidino)phenyl]succinamic acid [obtainable by reacting succinic acid monochloride with p-(N-benzoylamidino)aniline] is dissolved in 70 ml of butanol and, in the presence of dicyclohexylcarbodiimide, one equivalent of ethyl 3-amino-4-pentynoate is added. Then, after stirring at room temperature for three hours, the reaction mixture is filtered and the filtrate is concentrated in vacuo. The resulting residue is subjected to the usual working up. N-[4-(N-benzoylamidino)phenyl]-N′-(1-ethoxycarbonyl-methyl-2-propynyl)succinamide is obtained.

reactant | N-[4-(N-benzoylamidino)phenyl]succinamic acid | 0.7 g | C(C1=CC=CC=C1)(=O)NC(=N)C1=CC=C(C=C1)NC(CCC(=O)O)=O | C18H17N3O4
reactant | ethyl 3-amino-4-pentynoate | one equivalent | NC(CC(=O)OCC)C#C | C7H11NO2
reactant | dicyclohexylcarbodiimide | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
solvent | butanol | 70 ml | C(CCC)O | C4H10O
product | N-[4-(N-benzoylamidino)phenyl]-N′-(1-ethoxycarbonyl-methyl-2-propynyl)succinamide | C(C1=CC=CC=C1)(=O)NC(=N)C1=CC=C(C=C1)NC(CCC(=O)NC(C#C)(C(=O)OCC)C)=O | C25H26N4O5
